* D:\GitHub Repositories\GaN-Studies\Buck Converter\SynchBoost - Kopya.asc
XU1 GateTop DCBus1 SWnode 0 N042 GS66508T_L3V2
XU2 GateTop DCBus1 SWnode 0 N043 GS66508T_L3V2
XU3 GateTop2 DCBus2 SWnode2 0 N044 GS66508T_L3V2
XU4 GateTop2 DCBus2 SWnode2 0 N045 GS66508T_L3V2
XU5 GateBot N057 NEG1 0 N051 GS66508T_L3V2
XU6 GateBot N058 NEG1 0 N052 GS66508T_L3V2
XU7 GateBot2 N059 NEG2 0 N053 GS66508T_L3V2
XU8 GateBot2 N060 NEG2 0 N054 GS66508T_L3V2
L1 N048 N040 {Lfilt} Rser=0.0099
C1 N040 N062 {Cfilt} V={Vin} Rser=2e-2 Lser=5e-9
R1 N050 N056 {Rload}
V2 N042 0 {Tj}
V3 N043 0 {Tj}
V4 N044 0 {Tj}
V5 N045 0 {Tj}
V6 N051 0 {Tj}
V7 N052 0 {Tj}
V8 N054 0 {Tj}
V9 N053 0 {Tj}
R2 GateTop N001 {Ron}
R3 N002 N001 {Roff}
D1 GateTop N002 D
R4 GateBot N036 {Ron}
R5 N037 N036 {Roff}
D2 GateBot N037 D
V11 N049 N063 {Vin}
V1 N003 SWnode PULSE({Voff} {Von} {2*DeadTime+D/fsw} 2e-9 2e-9 {(1-D)/fsw-2*DeadTime} {1/fsw})
V10 N038 NEG1 PULSE({Voff} {Von} {DeadTime} 2e-9 2e-9 {D/fsw} {1/fsw})
L2 N039 N040 {Lfilt} Rser=0.0099
R6 GateTop2 N041 {Ron}
R7 N046 N041 {Roff}
D3 GateTop2 N046 D
R8 GateBot2 N055 {Ron}
R9 N061 N055 {Roff}
D4 GateBot2 N061 D
V12 N047 SWnode2 PULSE({Voff} {Von} {2*DeadTime+D/fsw + phase} 2e-9 2e-9 {(1-D)/fsw-2*DeadTime} {1/fsw})
V13 N064 NEG2 PULSE({Voff} {Von} {DeadTime + phase} 2e-9 2e-9 {D/fsw} {1/fsw})
C4 N004 N020 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl} Rpar={Rparallel}
L3 N004 DCBus1 3.08n Rser=10.4m
L4 N005 DCBus1 3.08n Rser=10.3m
L5 N006 DCBus1 3.08n Rser=10.3m
L6 N007 DCBus1 0.135n Rser=1.41m
L7 N008 DCBus1 0.13n Rser=1.15m
L8 N009 DCBus1 0.127n Rser=0.981m
L9 N010 DCBus1 0.126n Rser=0.945m
L10 N011 DCBus1 0.128n Rser=1.03m
L11 0 N020 2.13n Rser=6.88m
L12 0 N021 2.12n Rser=6.64m
L13 0 N022 2.12n Rser=6.46m
L14 0 N023 7.96n Rser=26.1m
L15 0 N024 7.96n Ipk=26.3m
L16 0 N025 7.96n Rser=26.4m
L17 0 N026 7.96n Rser=26.7m
L18 0 N027 7.96n Rser=26.9m
L19 N012 DCBus2 3.08n Rser=10.4m
L20 N013 DCBus2 3.08n Rser=10.3m
L21 N014 DCBus2 3.08n Rser=10.3m
L22 N015 DCBus2 0.135n Rser=1.41m
L23 N016 DCBus2 0.13n Rser=1.15m
L24 N017 DCBus2 0.127n Rser=0.981m
L25 N018 DCBus2 0.126n Rser=0.945m
L26 N019 DCBus2 0.128n Rser=1.03m
L27 GND2 N028 2.13n Rser=6.88m
L28 GND2 N029 2.12n Rser=6.64m
L29 GND2 N030 2.12n Rser=6.46m
L30 GND2 N031 7.96n Rser=26.1m
L31 GND2 N032 7.96n Ipk=26.3m
L32 GND2 N033 7.96n Rser=26.4m
L33 GND2 N034 7.96n Rser=26.7m
L34 GND2 N035 7.96n Rser=26.9m
L35 SWnode N057 1.1n Rser=2.34m
L36 SWnode N058 1.1n Rser=2.34m
L37 SWnode2 N059 1.1n Rser=2.34m
L38 SWnode2 N060 1.1n Rser=2.34m
L39 N003 N001 1.4n
L40 N038 N036 1.4n
L41 N047 N041 1.4n
L42 N064 N055 1.4n
L43 Vo N050 2e-6
L44 N056 N062 2e-6
C18 Vo N062 {Cfilt} V={Vout} Rser=2e-2 Lser=5e-9
L45 N049 N040 2e-6
L46 N063 N062 2e-6
L47 SWnode N039 100e-9
L48 SWnode2 N048 100e-9
L49 DCBus2 Vo 100e-9
L50 GND2 N062 100e-9
C19 N040 N062 0.68µF V={Vin} Rser=2e-2 Lser=10e-9
C20 Vo N062 0.68µF V={Vout} Rser=2e-2 Lser=10e-9
C2 N005 N021 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C3 N006 N022 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C5 N007 N023 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C6 N008 N024 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C7 N009 N025 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C8 N010 N026 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C9 N011 N027 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C10 N012 N028 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C11 N013 N029 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C12 N014 N030 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C13 N015 N031 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C14 N016 N032 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C15 N017 N033 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C16 N018 N034 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
C17 N019 N035 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl}
L51 0 N062 100e-9
L52 DCBus1 Vo 100e-9
L53 NEG1 0 2e-9 Rser=20m
L54 NEG2 GND2 2e-9
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.param Rload = Vout / Iout;
.param Ron=20 Roff=2;
.param Iout=13.5 Vin=270 Vout=400;
.param D = 0.293;
.param fsw =450k
.param K = 0.25;
;param Lfilt = 1/K * (1- Vout/Vin)*Vout/Iout*1/fsw
.param Cfilt=0.6e-6;
.params Von = 6 Voff = -3;
.param DeadTime = 100e-9;
.tran 0 0.4e-3 10e-6
.param Tj = 150
.ic V(Vo) = {Vout}
.param phase = 180/360 * 1/fsw
.param Cbypass 220e-9
.param Lfilt = 6.8e-6
.param Lesl=0.7e-9 Resr=0.0134 Rparallel=2.27e9
.lib GaN_LTspice_GS66508T_L3V2.lib
.backanno
.end
